US07402608B2
A solution of 3-[(1-Methanesulfonyl-piperidin-4-yl)-(4-methylcyclohexanecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester (40 mg, 0.077 mmol) was hydrolysed as described before with lithium hydroxide (2M, 114 μL, 5.5 mg, 0.23 mmol)to give after acidic work-up 3-[(1-Methanesulfonyl-piperidin-4-yl)-(4-methylcyclohexane-carbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid (29 mg, 74%) as a colourless powder; 1H (300 MHz, MeOD) 0.56-0.72 (m,1H), 0.79 (d, J=4.8 Hz, 3H), 1.23-1.44 (m, 5H), 1.51-1.79 (m, 6H), 1.92-1.98 (m, 1H), 2.04-2.14 (m, 2H), 2.78-2.90 (m, 2H), 2.80 (s, 3H), 3.66-3.74 (m, 1H), 3.75-3.81 (m, 1H), 4.52-4.62 (m, 1H), 7.39 (s, 1H), 7.40-7.90 (m, 3H), 7.73-7.77 (m, 2H).

reactant | 3-[(1-Methanesulfonyl-piperidin-4-yl)-(4-methylcyclohexanecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0.077 mmol, 40 mg | COC(=O)C=1SC(=CC1N(C(=O)C1CCC(CC1)C)C1CCN(CC1)S(=O)(=O)C)C1=CC=CC=C1 | C26H34N2O5S2
reactant | lithium hydroxide | 0.23 mmol, 2M, 114 μL, 5.5 mg | [OH-].[Li+]
product | 3-[(1-Methanesulfonyl-piperidin-4-yl)-(4-methylcyclohexane-carbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid | 29 mg, 74% | CS(=O)(=O)N1CCC(CC1)N(C1=C(SC(=C1)C1=CC=CC=C1)C(=O)O)C(=O)C1CCC(CC1)C | C25H32N2O5S2
